US08008483B2
e) Preparation of 2-{4-[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]-1-piperazinyl}-N-({2-[(trifluoromethyl)oxy]phenyl}methyl)acetamide
To a solution of {-4-[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]-1-piperazinyl}acetic acid (100 mg, 0.286 mmol, 1.00 equiv), {[2-(trifluoromethyl)phenyl]methyl}amine (48 μL, 0.34 mmol, 1.2 equiv), and diisopropylethylamine (DIEA, 75 μL, 0.43 mmol, 1.5 equiv) in DMF (1.8 mL) was added BOP (190 mg, 0.43 mmol, 1.5 equiv). The reaction mixture was stirred at room temperature for 1 h. The reaction mixture was filtered and purified by reverse-phase HPLC (Sunfire, 10-80% CH3CN/H2O, 0.1% TFA, 15 min) to give 30 mg (20%) of the title compound. MS (ES+): m/e 524.2 [M+H]+.

reactant | {-4-[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]-1-piperazinyl}acetic acid | 0.286 mmol, 100 mg, 1.00 equiv | CNC1=NC(=NC(=N1)N1CCN(CC1)C)N1CCN(CC1)CC(=O)O | C15H26N8O2
reactant | {[2-(trifluoromethyl)phenyl]methyl}amine | 0.34 mmol, 48 μL, 1.2 equiv | FC(C1=C(C=CC=C1)CN)(F)F | C8H8F3N
reactant | diisopropylethylamine | 0.43 mmol, 75 μL, 1.5 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOP | 0.43 mmol, 190 mg, 1.5 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | 2-{4-[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]-1-piperazinyl}-N-({2-[(trifluoromethyl)oxy]phenyl}methyl)acetamide | 30 mg, 20% | CNC1=NC(=NC(=N1)N1CCN(CC1)C)N1CCN(CC1)CC(=O)NCC1=C(C=CC=C1)OC(F)(F)F | C23H32F3N9O2
